US04279902
D. [[6-[[2-(Dipropylamino)-2-oxoethoxy]methyl]-1,4-dioxan-2-yl]methoxy]acetic acid
A solution of 8.23 g (0.025 mole) of 2-[[6-[(2-propenyloxy)methyl]-1,4-dioxan-2-yl]methoxy]-N,N-dipropylacetamide in 350 ml of dry acetone is stirred at -20°, treated with 12.0 ml (0.12 mole) of piperidine and 9.53 g of potassium permanganate (0.06 mole). The mixture is stirred for 30 minutes, and treated below -20° with 2 ml of acetic acid in 25 ml of acetone. After 4 hours at -20°, 250 ml of chloroform is added (-20°), followed by careful addition of 30 ml of concentrated hydrochloric acid in 150 ml of water and 14 g of sodium bisulfite in 100 ml of water. Extraction with chloroform, evaporation and vacuum distillation of the resulting yellow oil, yields 4.3 g (54%), b.p. 131°-135° @ 0.1 mm, of the above compound.

reactant | 2-[[6-[(2-propenyloxy)methyl]-1,4-dioxan-2-yl]methoxy]-N,N-dipropylacetamide | 0.025 mole, 8.23 g | C(C=C)OCC1COCC(O1)COCC(=O)N(CCC)CCC | C17H31NO5
reactant | piperidine | 0.12 mole, 12.0 ml | N1CCCCC1 | C5H11N
reactant | potassium permanganate | 0.06 mole, 9.53 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | sodium bisulfite | 14 g | S([O-])(O)=O.[Na+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | acetone | 350 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | [[6-[[2-(Dipropylamino)-2-oxoethoxy]methyl]-1,4-dioxan-2-yl]methoxy]acetic acid | C(CC)N(C(COCC1COCC(O1)COCC(=O)O)=O)CCC | C16H29NO7
